US04822822
Production of N-methyl-N-(4'-isopropylbenzyl)-1-naphthylmethylamine
1.71 g (0.01 mole) of N-methyl-1-naphthylmethylamine was dissolved in 30 ml of tetrahydrofuran, and 1.2 g (0.012 mole) of triethylamine was added. With stirring at room temperature, 1.85 g (0.011 mole) of p-isopropylbenzyl chloride was added, and the mixture was reacted at room temperature for 6 hours. The reaction mixture was filtered, and the solvent was removed under reduced pressure. The residue was distributed between ether and a saturated aqueous solution of sodium hydrogen carbonate, and the organic layer was collected. The organic layer was washed with water, dried over sodium sulfate and then concentrated under reduced pressure. The residue was chromatographed on a silica gel column and eluted with 4% ethyl acetate/n-hexane. The eluate was concentrated to give 2.82 g (yield 93%) of an oily substance.

reactant | N-methyl-1-naphthylmethylamine | 0.01 mole, 1.71 g | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
reactant | triethylamine | 0.012 mole, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | p-isopropylbenzyl chloride | 0.011 mole, 1.85 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-methyl-N-(4'-isopropylbenzyl)-1-naphthylmethylamine | yield 93% | CN(CC1=CC=C(C=C1)C(C)C)CC1=CC=CC2=CC=CC=C12 | C22H25N
